US05530119
N-tert-butyloxycarbonylpiperazine (1.0 g, 5.34 mmol) was dissolved in 5 mL of THF:water (1:1) and cooled in an ice bath. Triethylamine (1.45 mL, 10.68 mmol), followed by methanesulfonyl chloride (0.50 mL, 6.44 mmol) in 5 mL of ether were added, and stirred at 0° C. for 1 hour and at room temperature for 2 hours. Solvents were removed and 40 mL of ethyl acetate was added to the residue. The ethyl acetate layer was washed with brine (30 mL×3) and dried over anhydrous sodium sulfate. After filtered, the filtrate was concentrated in vacuo to yield 1.314 g of N-tert-butyloxycarbonyl-N'-methanesulfonyl-piperazine in 93% yield. MS m/z M+NH4 =282. H1 -NMR (in CDCl3) δ=1.48 (s, 9H, Boc), 2.79 (s, 3H, S-CH3), 3.18 (t, 4H, piperazine), 3.55 (t, 4H, piperazine). The obtained N-tert-butyloxycarbonyl-N'-methanesulfonyl-piperazine (1.3 g, 4.97 mmol) was dissolved in 10 mL of 20% trifluoroacetic acid in methylene chloride and stirred at room temperature for 30 minutes. Solvent and trifluoroacetic acid were removed to obtain N-methanesulfonylpiperazine trifluoroacetic acid salt in quantitative yield. MS m/z M+H=165, H1 -NMR (in MeOH-d4) δ=2.95 (s, 3H, S-CH3), 3.35 (m, 4H, piperazine), 3.5 (m, 4H, piperazine). The obtained N-methanesulfonylpiperazine trifluoroacetic acid salt (2.2 g) was dissolved in 30 mL of acetonitrile and cooled in an ice bath. Solid sodium bicarbonate was added to the acetonitrile solution and stirred for 2 hours. Solid was filtered off and the filtrate was concentrated in vacuo to yield N-methanesulfonylpiperazine in quantitative yield. MS m/z M+H=165, M+NH4 =182; H1 -NMR (in MeOH-d4) δ=2.85 (s, 3H, S-CH3), 2.95 (t, 4H, 3.22 (t, 4H, piperazine). Following the procedure of Example 6, but replacing 1-benzylpiperazine with 1-methanesulfonylpiperazine, provides the desired compound. The product of Example 3 (2.1 g, 2.03 mmol), base-treated salt free form of 1-methanesulfonylpiperazine (999 mg, 6.09 mmol), and triethylamine (0.85 mL, 6.09 mmol) in 10 mL of methylene chloride are used. The obtained product (1.0 g) is treated with 48%-HF (4 mL) in 35 mL of acetonitrile in the procedure described in Example 5 to yield the pure title compound.

reactant | N-tert-butyloxycarbonylpiperazine | 5.34 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | Triethylamine | 10.68 mmol, 1.45 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.44 mmol, 0.50 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF water | 5 mL | C1CCOC1.O
solvent | ether | 5 mL | CCOCC | C4H10O
product | N-tert-butyloxycarbonyl-N'-methanesulfonyl-piperazine | 1.314 g, 93% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C | C10H20N2O4S
